US07501428B2
To a combined solution of acetonitrile (360 mL) and water (90 mL) was added 6-bromo-1H-benzo[d][1,3]oxazine-2,4-dione (24.2 g, 0.1 mol), 1,2-dimethyl-isothiourea hydriodic (23.2 g, 0.1 mol) followed by anhydrous sodium carbonate (11.7 g, 0.11 mol) and the mixture was heated to reflux for 3 hours. After cooling down, the precipitate was collected by filtration, washed with water to afford 6-bromo-2-methylamino-1H-quinazolin-4-one (16.5 g, 65 mmol, 65%) as a light yellow powder. 1H NMR (DMSO-d6): δ 11.20 (b, 1H), 7.91-7.90 (d, 1H), 7.64-7.63 (d, 1H), 7.20-7.18 (d, 1H), 6.30 (b, 1H), 2.82-2.81 (d, 3H).

reactant | acetonitrile | 360 mL | C(C)#N | C2H3N
reactant | 6-bromo-1H-benzo[d][1,3]oxazine-2,4-dione | 0.1 mol, 24.2 g | BrC1=CC2=C(NC(OC2=O)=O)C=C1 | C8H4BrNO3
reactant | 1,2-dimethyl-isothiourea | 0.1 mol, 23.2 g | CNC(SC)=N | C3H8N2S
reactant | sodium carbonate | 0.11 mol, 11.7 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 90 mL | O | H2O
product | 6-bromo-2-methylamino-1H-quinazolin-4-one | 65 mmol, 16.5 g, 65% | BrC=1C=C2C(N=C(NC2=CC1)NC)=O | C9H8BrN3O
